US07582773B2
Step 1: Synthesis of [4-(9-Benzyl-6,7,8,9-tetrahydro-5H-carbazol-3-yl)-phenoxy]-acetic acid methyl ester.
The desired product was prepared using a procedure similar to step 1 of example 4. Thus, 4-(9-benzyl-6,7,8,9-tetrahydro-5H-carbazol-3-yl)-phenol (0.419 g, 1.185 mmol) was reacted with K2CO3 (0.213 g, 1.541 mmol) and methyl bromoacetate (0.236 g, 1.541 mmol) in acetone to give the product (0.362 g, 0.851 mmol, 72%) as a white solid, mp 109-112° C. 1H NMR (DMSO-d6) δ 1.77-1.87 (m, 4H), 2.65 (t, J=5.3 Hz, 2H), 2.70 (t, J=6.0 Hz, 2H), 3.71 (s, 3H), 4.81 (s, 2H), 5.33 (s, 2H), 6.98 (d, J=8.7 Hz, 2H), 7.03 (d, J=7.3 Hz, 2H), 7.21 (t, J=7.2 Hz, 1H), 7.25-7.30 (m, 3H), 7.39 (d, J=8.4 Hz, 1H), 7.57 (d, J=8.7 Hz, 2H), 7.58 (d, J=1.1 Hz, 1H); [ESI(+)], m/z 426 (M+H)+.

reactant | 4-(9-benzyl-6,7,8,9-tetrahydro-5H-carbazol-3-yl)-phenol | 1.185 mmol, 0.419 g | C(C1=CC=CC=C1)N1C=2CCCCC2C=2C=C(C=CC12)C1=CC=C(C=C1)O | C25H23NO
reactant | K2CO3 | 1.541 mmol, 0.213 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl bromoacetate | 1.541 mmol, 0.236 g | BrCC(=O)OC | C3H5BrO2
solvent | acetone | CC(=O)C | C3H6O
product | [4-(9-Benzyl-6,7,8,9-tetrahydro-5H-carbazol-3-yl)-phenoxy]-acetic acid methyl ester | COC(COC1=CC=C(C=C1)C=1C=CC=2N(C=3CCCCC3C2C1)CC1=CC=CC=C1)=O | C28H27NO3
